US07402595B2
6-bromo-2-(4-methoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 6-bromo-4-phenyl-3-isocoumarincarboxylic acid methyl ester (3.60 g) in methanol (50 ml) was added 4-aminomethylbenzoic acid methyl ester (3.16 ml) and the mixture was stirred at room temperature for 18 hrs. The solvent was evaporated under reduced pressure and 1N hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was dissolved in methanol (100 ml). Conc. sulfuric acid (10 ml) was added, and the mixture was heated under reflux for 3 hr. The solvent was evaporated under reduced pressure, water was added under ice-cooling and the mixture was neutralized with potassium carbonate. The solution was extracted with ethyl acetate and the extract was washed with saturated brine. Sodium sulfate was added to dry the mixture. The obtained residue was recrystallized from methanol to give the title compound (3.39 g, 67%).

reactant | 6-bromo-4-phenyl-3-isocoumarincarboxylic acid methyl ester | 3.60 g | COC(=O)C=1OC(=O)C2=CC=C(C=C2C1C1=CC=CC=C1)Br | C17H11BrO4
reactant | 4-aminomethylbenzoic acid methyl ester | 3.16 ml | COC(C1=CC=C(C=C1)CN)=O | C9H11NO2
solvent | methanol | 50 ml | CO | CH4O
product | 6-bromo-2-(4-methoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 3.39 g, 67% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)C(=O)OC | C26H20BrNO5
